US04308199
Preparation of 2,5 and/or 2,6-bis-(4-hydroxyphenylthio)bicyclo[2.2.1]heptane
To the reactor of Example 1 was added 66 grams of 4-mercaptophenol, 100 ml. toluene and 24.1 grams of 2,5-norbornadiene. The mixture was reacted for 2.5 hours at 70° C. The mixture was cooled to ambient temperature and after 16 hours the white solid was filtered and washed with benzene. The product contained 17.9% sulfur and had a melting point of 142°-146° C.

reactant | 4-mercaptophenol | 66 grams | SC1=CC=C(C=C1)O | C6H6OS
reactant | 2,5-norbornadiene | 24.1 grams | C12C=CC(C=C1)C2 | C7H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis-(4-hydroxyphenylthio)bicyclo[2.2.1]heptane | OC1=CC=C(C=C1)SC1C2C(CC(C1)C2)SC2=CC=C(C=C2)O | C19H20O2S2
